US07241789B2
c). Ethyl 2-(5-hydroxyindolyl)cyclopropanecarboxylate
Ethyl 2-(5-benzyloxyindolyl)cyclopropanecarboxylate(1.75 g, 0.0052 mol), as prepared in the preceding step, was added under argon to a suspension of 10% of palladium(0) on carbon (0.50 g) in methanol (50 mL). The reaction was carried out under H2 atmosphere for a period of 6 h. Filtration of the reaction over Celite and evaporation of the filtrate yielded the title compound (1.27 g, 99%). 1H NMR (400 MHz, CDCl3) δ 1.32 (t, 3H, J=7.1 Hz), 1.60 (m, 1H), 1.72 (m, 1H), 2.13 (m, 1H), 3.77 (m, 1H), 4.25 (q, 2H, J=7.1 Hz), 6.29 (d, 1H, J=3.0 Hz), 6.81 (d, 1H, J=8.3 Hz), 7.00 (m, 2H), 7.27 (m, 1H)

reactant | Ethyl 2-(5-benzyloxyindolyl)cyclopropanecarboxylate | 0.0052 mol, 1.75 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C1C(C1)C(=O)OCC | C21H21NO3
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium(0) | [Pd] | Pd
product | Ethyl 2-(5-hydroxyindolyl)cyclopropanecarboxylate | 1.27 g, 99% | OC=1C=C2C=C(NC2=CC1)C1C(C1)C(=O)OCC | C14H15NO3
